US09371280B2
In a 15 mL pressure tube, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1, 100 mg, 162 μmol) and cesium carbonate (63.4 mg, 195 μmol) were combined with dimethyl formamide (2 mL). 2-Chloroacetamide (15.2 mg, 162 μmol) was added to the mixture with stirring to give a white suspension. The tube was capped and heated at 50° C. overnight. The reaction mixture was cooled down to room temperature. It was poured into water and extracted with ethyl acetate (2×). The ethyl acetate layers were combined, dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified with flash chromatography (24 g pre-packed silica gel column, eluted with ethyl acetate in hexanes) to give 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid carbamoylmethyl ester as an off-white solid (62 mg, 58% yield). LCMS (ES+) m/z calcd. for C33H33Cl2F2N4O5 [(M+H)+]: 673. found: 673.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | 162 μmol, 100 mg | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | cesium carbonate | 195 μmol, 63.4 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethyl formamide | 2 mL | CN(C=O)C | C3H7NO
reactant | 2-Chloroacetamide | 162 μmol, 15.2 mg | ClCC(=O)N | C2H4ClNO
solvent | water | O | H2O
product | 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid carbamoylmethyl ester | 62 mg, 58% yield | C(N)(=O)COC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O | C33H32Cl2F2N4O5
